US06884868B1
To a solution of 4-(4-acetylthiopiperidin-1-yl)nitrobenzene (3.34 g) in a mixture of THF (30 ml) and methanol (30 ml) was added 28% sodium methoxide methanol solution (2.67 ml) at 0-5° C. and stirred at the same temperature for 30 minutes. To the mixture was added iodopropane (1.51 ml) at the same temperature and stirred at ambient temperature for 2 hours. The reaction mixture was evaporated in vacuo and dissolved in ethyl acetate (100 ml). The solution was washed three times with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated in vacuo. A solution of the resulting residue, ammonium chloride (1.0 g) and iron powder (4.0 g) in a mixture of ethanol (60 ml) and water (30 ml) was refluxed for 2 hours. The reaction mixture was evaporated in vacuo. The resulting residue was chromatographed on silica gel (300 ml) eluting with ethyl acetate. The fractions containing the desired compound were collected and evaporated under reduced pressure to give 4-(4-propylthiopiperidin-1-yl)aniline (2.47 g).

reactant | 4-(4-acetylthiopiperidin-1-yl)nitrobenzene | 3.34 g | C(C)(=O)SC1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C13H16N2O3S
reactant | sodium methoxide methanol | 2.67 ml | CO.C[O-].[Na+]
reactant | iodopropane | 1.51 ml | ICCC | C3H7I
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | methanol | 30 ml | CO | CH4O
product | 4-(4-propylthiopiperidin-1-yl)aniline | 2.47 g | C(CC)SC1CCN(CC1)C1=CC=C(N)C=C1 | C14H22N2S
